US05482969
N-(4-Benzoyl-2-bromophenyl)-2-(difluoromethyl)-3,3,-difluoro-2-hydroxypropanamide.
Using a procedure similar to that described in Example 1, except replacing the 3,3,3-trifluoro-2-hydroxy-2-methylpropanoic acid with 3,3-difluoro-2-difluoromethyl-2-hydroxypropanoic acid and the 4-amino-3-methylbenzophenone with 4-amino-2-bromobenzophenone, the title compound was prepared; mp 128°-132° C. Analysis for C17H12BrF4NO3 : Calculated: C, 47.13; H, 2.79; N, 3.23; Found: C, 56.21; H, 2.95; N, 3.14.

reactant | 3,3-difluoro-2-difluoromethyl-2-hydroxypropanoic acid | FC(C(C(=O)O)(O)C(F)F)F | C4H4F4O3
reactant | 4-amino-3-methylbenzophenone | NC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)C | C14H13NO
reactant | 4-amino-2-bromobenzophenone | NC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)Br | C13H10BrNO
product | N-(4-Benzoyl-2-bromophenyl)-2-(difluoromethyl)-3,3,-difluoro-2-hydroxypropanamide | C(C1=CC=CC=C1)(=O)C1=CC(=C(C=C1)NC(C(C(F)F)(O)C(F)F)=O)Br | C17H12BrF4NO3
